US09422331B2
To a 0° C. solution of tert-butyl(3S,4S)-7-cyano-4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylcarbamate (106 mg, 335 μmol) in pyridine (3.35 ml) was added 2-(methylsulfonyl)acetic acid (50.9 mg, 369 μmol) followed by phosphoryl chloride (61.3 μl, 670 μmol), dropwise. The reaction was stirred at 0° C. for 30 min, then quenched by the addition of H2O and extracted with EtOAc. The combined organic layers were washed with 1 N aq. citric acid, H2O, sat. aq. NaHCO3, and sat. aq. NaCl, dried over Na2SO4, filtered, and concentrated. The crude material was purified by flash chromatography to provide tert-butyl(2S,3S)-8-cyano-2-methyl-1-(2-(methylsulfonyl)acetyl)-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylcarbamate (137 mg, 94%) as a white solid. MS m/z 459 (MNa)+.

reactant | tert-butyl(3S,4S)-7-cyano-4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylcarbamate | 335 μmol, 106 mg | C(#N)C1=CC2=C(NC([C@H]([C@@H](N2)C)NC(OC(C)(C)C)=O)=O)C=C1 | C16H20N4O3
reactant | 2-(methylsulfonyl)acetic acid | 369 μmol, 50.9 mg | CS(=O)(=O)CC(=O)O | C3H6O4S
reactant | phosphoryl chloride | 670 μmol, 61.3 μl | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | pyridine | 3.35 ml | N1=CC=CC=C1 | C5H5N
product | tert-butyl(2S,3S)-8-cyano-2-methyl-1-(2-(methylsulfonyl)acetyl)-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylcarbamate | 137 mg, 94% | C(#N)C=1C=CC2=C(N([C@H]([C@@H](C(N2)=O)NC(OC(C)(C)C)=O)C)C(CS(=O)(=O)C)=O)C1 | C19H24N4O6S
